US07214824B2
2-(4-tert-Butyl-3-chlorophenoxy)-N-((1R)-1-{3-fluoro-4-[(methylsulfonyl)amino]phenyl}ethyl}acetamide
(4-tert-Butyl-3-chlorophenoxy)acetic acid (121 mg, 0.50 mmol), 2-chloro-1,3-dimethylimidazolinium chloride (CDI) (86 mg, 0.53 mmol), triethylamine (0.5 ml) and N{4-[(1R)-1-aminoethyl]-2-fluorophenyl}methanesulfonamide hydrochloride (134 mg, 0.50 mmol, WO 2005003084A1) were mixed in the same procedure described in Example 2(b) to give 68 mg (30% yield) of the title compound as a white solid.

reactant | (4-tert-Butyl-3-chlorophenoxy)acetic acid | 0.50 mmol, 121 mg | C(C)(C)(C)C1=C(C=C(OCC(=O)O)C=C1)Cl | C12H15ClO3
reactant | 2-chloro-1,3-dimethylimidazolinium chloride | 0.53 mmol, 86 mg | [Cl-].ClC1[NH+](CCN1C)C
reactant | N{4-[(1R)-1-aminoethyl]-2-fluorophenyl}methanesulfonamide hydrochloride | 0.50 mmol, 134 mg | Cl.N[C@H](C)C1=CC(=C(C=C1)NS(=O)(=O)C)F
solvent | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
product | 2-(4-tert-Butyl-3-chlorophenoxy)-N-((1R)-1-{3-fluoro-4-[(methylsulfonyl)amino]phenyl}ethyl}acetamide | 68 mg, 30% yield | C(C)(C)(C)C1=C(C=C(OCC(=O)N[C@H](C)C2=CC(=C(C=C2)NS(=O)(=O)C)F)C=C1)Cl | C21H26ClFN2O4S
